US04451462
2.27 g (11 mmoles) of dicyclohexylcarbodiimide in 20 ml of absolute methylene chloride are added at room temperature to a solution of 2.5 g (10 mmoles) of 2-[2-hydroxy-5-methyl-4-(pyrrol-1-yl)-phenyl]-propionic acid in 30 ml of absolute methylene chloride. The reaction mixture is stirred for approximately 30 minutes at room temperature, the precipitate is filtered off and the filtrate is concentrated in a vacuum rotary evaporator. Distillation yields 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran-2(3H)-one, b.p. 180°/0.005 torr, m.p. 61°-63°.

reactant | dicyclohexylcarbodiimide | 11 mmoles, 2.27 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-[2-hydroxy-5-methyl-4-(pyrrol-1-yl)-phenyl]-propionic acid | 10 mmoles, 2.5 g | OC1=C(C=C(C(=C1)N1C=CC=C1)C)C(C(=O)O)C | C14H15NO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3,5-dimethyl-6-(pyrrol-1-yl)-benzofuran-2(3H)-one | CC1C(OC2=C1C=C(C(=C2)N2C=CC=C2)C)=O | C14H13NO2
